US04925942
The novel process of the invention for the preparation of quinuclidine-3-methanol comprises reacting quinuclidine-3-one acid addition salt with an alkali metal cyanide in an aqueous meda to obtain 3-cyano-3-hydroxy-quinuclidine, reacting the latter with anhydrous methanol in the presence of hydrogen chloride gas followed by treatment with aqueous alkali to obtain methyl 3-hydroxy-quinuclidine-3-carboxylate, reacting the latter with thionyl chloride to form methyl 1-azabicyclo(2,2,2)oct-2-ene-3-carboxylate, hydrogenating the latter with Raney nickel to obtain methyl 1-azabicyclo(2,2,2)octane-3-carboxylate and reducing the latter to obtain quinuclidine-3-methanol.

reactant | quinuclidine-3-methanol | N12CC(C(CC1)CC2)CO | C8H15NO
reactant | quinuclidine-3-one | N12CC(C(CC1)CC2)=O | C7H11NO
product | 3-cyano-3-hydroxy-quinuclidine | C(#N)C1(CN2CCC1CC2)O | C8H12N2O
